US06492401B1
A mixture of ethyl 5-cyclopropyl-1-(2-chloro-5-{hydroxysulfonyl}phenyl)-1H-pyrazole-4-carboxylate (1.48 g, 4.0 mmol) and PCl5 (1.79 g, 8.6 mmol) in POCl3 (6 mL) under a nitrogen atmosphere was heated at 95° C. for 30 min, cooled to 23° C. and poured slowly over ice. The resulting mixture was extracted with EtOAc. The organic layer was washed three times with cold water, brine, dried over MgSO4, filtered and concentrated in vacuo to afford 1.48 g (95% yield) of ethyl 5-cyclopropyl-1-(2-chloro-5-{chlorosulfonyl}phenyl)-1H-pyrazole-4-carboxylate as a yellow oil.

reactant | ethyl 5-cyclopropyl-1-(2-chloro-5-{hydroxysulfonyl}phenyl)-1H-pyrazole-4-carboxylate | 4.0 mmol, 1.48 g | C1(CC1)C1=C(C=NN1C1=C(C=CC(=C1)S(=O)(=O)O)Cl)C(=O)OCC | C15H15ClN2O5S
reactant | PCl5 | 8.6 mmol, 1.79 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | POCl3 | 6 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 5-cyclopropyl-1-(2-chloro-5-{chlorosulfonyl}phenyl)-1H-pyrazole-4-carboxylate | 1.48 g, 95% yield | C1(CC1)C1=C(C=NN1C1=C(C=CC(=C1)S(=O)(=O)Cl)Cl)C(=O)OCC | C15H14Cl2N2O4S
